US06747023B1
1,5-Bis(t-butoxycarbonyl)-2-formyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
To a solution of 1,5-bis(t-butoxycarbonyl)-2-hydroxymethyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine (14.0 mg) in methylene chloride (2.0 ml), Dess-Martin periodinane (34.0 mg) was added at room temperature. The resulting mixture was stirred for 1 hour. To the reaction mixture, ethyl acetate (10 ml), a 10% aqueous solution (10 ml) of sodium thiosulfate and an aqueous solution (10 ml) of sodium bicarbonate were added to cause separation. The water layer was extracted with ethyl acetate (10 ml). The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by thin-layer preparative chromatography on silica gel (hexane:ethyl acetate=2:1), whereby the title compound (9.8 mg) was obtained as a colorless transparent caramel-like substance. IR(KBr)cm−1: 2976, 2933, 1741, 1697, 1660, 1479, 1413, 1367, 1346, 1298, 1281, 1234, 1165, 1146, 1103, 895, 850, 768. 1H-NMR (CDCl3) δ: 1.48(9H,s), 1.63(9H,s), 2.96(2H,br t,J=5.4 Hz), 3.68(2H,br t,J=5.4 Hz), 4.37(2H,s), 6.97(1H,s), 10.14(1H,br s). MS (FAB/m-NBA) m/z: 351 [(M+H)+], 295 [(M+H-isobutene(56))+], 239 [(M+H)—2×isobutene (56))+].

reactant | 1,5-bis(t-butoxycarbonyl)-2-hydroxymethyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 14.0 mg | C(C)(C)(C)OC(=O)N1C(=CC=2CN(CCC21)C(=O)OC(C)(C)C)CO | C18H28N2O5
reactant | Dess-Martin periodinane | 34.0 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
reactant | isobutene | C=C(C)C | C4H8
solvent | methylene chloride | 2.0 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1,5-Bis(t-butoxycarbonyl)-2-formyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | C(C)(C)(C)OC(=O)N1C(=CC=2CN(CCC21)C(=O)OC(C)(C)C)C=O | C18H26N2O5
